US05329012
Sodium hydride g; 60% in an oil dispersion) was added in small portions to a stirred solution of the above-identified 2-methoxy-4,5-imidazoledicarbonitrile (3.25 g; 0.022 mol) in dimethylformamide (25 mL). Hydrogen gas was evolved. The mixture was cooled, iodomethane (3.2 g) was slowly added and the mixture was stirred overnight. The mixture was poured into ice-water and extracted with chloroform. The combined chloroform extract was washed with water, dried (magnesium sulfate) and concentrated to dryness in vacuo. The residue was chromatographed (silica gel eluted with dichloromethanehexanes) and the product was crystallized from dichloromethane-hexanes to give 1.6 g (45%) of 1-methyl-2-methoxy-4,5-imidazoledicarbonitrile (top 65°-66 ° C.).

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-methoxy-4,5-imidazoledicarbonitrile | 0.022 mol, 3.25 g | COC=1NC(=C(N1)C#N)C#N | C6H4N4O
reactant | Hydrogen | [H][H] | H2
reactant | iodomethane | 3.2 g | IC | CH3I
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-methyl-2-methoxy-4,5-imidazoledicarbonitrile | 1.6 g, 45% | CN1C(=NC(=C1C#N)C#N)OC | C7H6N4O
